datasets/10k__Tet_Int.csv
SMILES Labelled
"CC[NH+:10]([H])[C:20]1([NH:21][H])[O]C(C7=CC=CC=C7)C(C)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C(C7=CC=CC=C7)C(C)[O]2.CC[NH:10][H] 21=20;20,10=10"
"CC[NH+:10]([H])[C:20]1([NH:21]CC)[O]C(CC)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O]C(CC)C(C8=CC=CC=C8)[O]2.CC[NH:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].[Si](C)(C)(C)[O+:21]=[C:20]([S]CC)[S]C.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][Si](C)(C)(C))([S]CC)[S]C 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([O:21][H])[O][CH](CC)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O][CH](CC)[CH]([H])C(CC)[O]2.[H][O:10][H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C([H])[O]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C(C)[CH]([H])[O]1 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1CCCCCC)C)C.[O-:21]C1=CC=CC=C1>>CCCCCCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)C)C 21=20;20,10=10"
"[OH:21][CH:20]2(OCC)C(C3=C(C([OH+:10]2)[H])C=CC=C3)O>>[OH:10]C(C1=C(C([CH:20](OCC)=[OH+:21])O)C=CC=C1)[H] 21=20;20,10=10"
"[OH:21][C:20]1(OC)C([H])=C([H])C(C)C([H])[OH+:10]1>>[OH:10]C([H])C(C)/C([H])=C([H])\[C:20](OC)=[OH+:21] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[NH]C(CC)C(CC)[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[NH]C(CC)C(CC)[NH]1 10=20;20,21=21"
"[NH:10](C)C(C)C(C)N([C:20](OCC)=[O:21])[H]>>[O-:21][C:20]1(OCC)[NH+:10](C)C(C)C(C)N1[H] 10=20;20,21=21"
"[O-:21][C:20]1([H])C(C)C(C)=C(C)C([H])[O+:10]1([Na])>>[O:10]([Na])C([H])/C(C)=C(C)\C(C)[C:20]([H])=[O:21] 21=20;20,10=10"
"[H][O+:10](C(CC)C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]CC)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C(C8=CC=CC=C8)[NH][C:20]([O]CC)=[NH+:21]CC 21=20;20,10=10"
"CC[O+:10]([H])[C:20]([NH:21]CC)([O][H])[O]CC.[Cl-]>>[Cl-].CC[O:10][H].CC[NH+:21]=[C:20]([O][H])[O]CC 21=20;20,10=10"
"[H][S:10]C(C9=CC=CC=C9)C([H])[S][C:20]([O]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C([H])[S]1)[C:20]1([O:21]C)[O]CC 10=20;20,21=21"
"[O:20]=[C:21](OC1=CC=CC=C1)OCCCCCC.[H][O:10][Na]>>[H][O+:10]([Na])[C:21]([O-:20])(OC1=CC=CC=C1)OCCCCCC 10=21;21,20=20"
"[NH:10](C)C(C)C(O)C(C)C([H])[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C([H])C(C)C(O)C(C)[NH+:10]1(C) 10=20;20,21=21"
"[H][O:10][H].CC[NH+:21]=[C:20]([O]C8=CC=CC=C8)[O]C.[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]([NH:21]CC)([O]C8=CC=CC=C8)[O]C 10=20;20,21=21"
"[H][S:10]C(CC)C(C)C(C)[S][C:20]([S]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C)C(C)[S]1)[C:20]1([O:21]C)[S]CC 10=20;20,21=21"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])[H])[H])CCCCCC)C1=CC=CC=C1>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)[H])[H])CCCCCC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[H][O+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([O]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"CCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)CCCCCC)C1=CC=CC=C1>>CCN([C:20]1(OC(C(C([O:21]1)CCCCCC)C)CCCCCC)[O-:10])C1=CC=CC=C1 21=20;20,10=10"
"[H][O:10]C([H])C([H])C(C)[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][O+:10](C([H])C([H])C(C)[NH]1)[C:20]1([NH:21]C6=CC=CC=C6)[O]C7=CC=CC=C7 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C([H])[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](C7=CC=CC=C7)C([H])[CH]([H])[NH]1 10=20;20,21=21"
"[H][NH+:10](C(CC)C(C)C([H])[O]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C([H])[O][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C([H])[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C(C)[CH]([H])[NH]1 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C([H])[CH](C8=CC=CC=C8)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH]([H])[CH]([H])C(C8=CC=CC=C8)[NH]2.C[NH:10][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21][H])[O]C([H])C([H])[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O]C([H])C([H])[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C([H])[CH](C)[O]1 10=20;20,21=21"
"C[NH+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([NH][H])[O][H].[Cl-]>>[Cl-].C[NH:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([NH][H])[O][H] 21=20;20,10=10"
"[O-:21][C:20]1([H])[O:10]C(CCC)C(O)=C1C>>[O-:10]C(CCC)/C(O)=C([C:20]([H])=[O:21])/C 21=20;20,10=10"
"[H][O:10]C(C)C([H])[S][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])[S]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)C)C1=CC=CC=C1)CC>>CCCCCCN([C:20]1(OC(C(C([O:21]1)CCCCCC)C)C1=CC=CC=C1)[O-:10])CC 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1C)[H])CCCCCC.[O-:21]CC>>C1=CC=CC=C1C1C(C(O[C:20](N1C)([O-:10])[O:21]CC)[H])CCCCCC 21=20;20,10=10"
"CC[O+:10]([H])[C:20]([NH:21]C6=CC=CC=C6)([O][H])[O][H].[Cl-]>>[Cl-].CC[O:10][H].C6=CC=CC=C6[NH+:21]=[C:20]([O][H])[O][H] 21=20;20,10=10"
